US04714492
4.5 g (0.015 mol) of ethyl 1-methyl-6-phenyl-2-propyl-4-oxonicotinate is suspended in 60 g of 5% sodium hydroxide in a 1:1 mixture of methanol and water. The mixture is heated at 85° C. and stirred for 21/2 hrs. The solution formed is acidified and the suspension formed is vacuum filtered. The filter cake is dried to afford 2.7 g of 1-methyl-6-phenyl-2-propyl-4-oxonicotinic acid, mp 150° C. (MDC/ether). An additional 0.5 g of 1-methyl-6-phenyl-2-propyl-4-oxonicotinic acid is obtained by extraction of the xylene solution with 30 ml of 1% sodium hydroxide and acidification of the basic extract.

reactant | ethyl 1-methyl-6-phenyl-2-propyl-4-oxonicotinate | 0.015 mol, 4.5 g | CN1C(=C(C(=O)OCC)C(C=C1C1=CC=CC=C1)=O)CCC | C18H21NO3
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | sodium hydroxide | 60 g | [OH-].[Na+]
product | 1-methyl-6-phenyl-2-propyl-4-oxonicotinic acid | 2.7 g | CN1C(=C(C(=O)O)C(C=C1C1=CC=CC=C1)=O)CCC | C16H17NO3
